US07037938B2
To a suspension of tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-(4-hydroxyphenyl)ethyl]carbamate (550 mg), (4-methoxycarbonylphenyl)boronic acid (300 mg), triethylamine (1.0 ml) and powdered 4 Å molecular sieves (600 mg) in dichloromethane (8 ml) was added copper(II) acetate (255 mg), and the mixture was stirred at room temperature for 18 hours under ambient atmosphere. The resulting slurry was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give methyl 4-[4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenoxy]benzoate (185 mg).

reactant | tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-(4-hydroxyphenyl)ethyl]carbamate | 550 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)O)O | C21H26ClNO4
reactant | (4-methoxycarbonylphenyl)boronic acid | 300 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 255 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | methyl 4-[4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenoxy]benzoate | 185 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(OC2=CC=C(C(=O)OC)C=C2)C=C1)C[C@H](O)C1=CC(=CC=C1)Cl | C29H32ClNO6
